US06878713B2
Ethyl chloroformate (37.49 g, 346 mmol) was added to a stirred solution of 1-benzyl-3-ethyl-4-piperidone (24.0 g, 110 mmol) in benzene (200 ml) at ambient temperature. The obtained reaction mixture was refluxed with stirring for 16 hr and concentrated to dryness to give 1-carbethoxy-3-ethylpiperidin-4-one as oil. Yield 21 g (96%), C10H17NO3, m/z 200 (M+1).

reactant | Ethyl chloroformate | 346 mmol, 37.49 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-benzyl-3-ethyl-4-piperidone | 110 mmol, 24.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)CC | C14H19NO
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 1-carbethoxy-3-ethylpiperidin-4-one | C(=O)(OCC)N1CC(C(CC1)=O)CC | C10H17NO3
